US05792769
a) 3-(2-Chlorobenzyloxy)-5-methylphenol
To 1.31 g (9.22 [mmol) of Orcinol monohydrate in 20 mL anhydrous DMF under a nitrogen atmosphere was add ed 220 mg (9.17 mmol) of NaH (100%). After 5 min, 1.3 mL (100 mmol) of 2-chlorobenzyl bromide was added. The reaction mixture was stirred for 2 h and then quenched with 1N HCl. The reaction mixture was extracted into ethyl acetate (200 mL). The organic phase was washed with H2O (4×100 mL), dried (MgSO4), and concentrated in vacuo. Purification by flash chromatography (ether/hexane (50:50 to 100:0) gave 656 mg of the title compound as a hardened oil. 1H-NMR (300 MHz, CDCl3) δ 7.54 (dd, 1H, J=3, 7 Hz), 7.39 (dd, 1H, J=3, 7 Hz), 7.2 -7.3 (m, 2H), 6.41 (s, 1H), 6.29-6:30 (m, 2H), 5.29 (s, 2H), and 2.28 (s, 3H).

reactant | Orcinol monohydrate | O.C1(=CC(O)=CC(C)=C1)O
reactant | NaH | 9.17 mmol, 220 mg | [H-].[Na+]
reactant | 2-chlorobenzyl bromide | 100 mmol, 1.3 mL | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(2-Chlorobenzyloxy)-5-methylphenol | 656 mg | ClC1=C(COC=2C=C(C=C(C2)C)O)C=CC=C1 | C14H13ClO2
